US08202873B2
Dissolve 3′-chloro-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-carboxylic acid t-butyl ester (6.92 g, 30.75 mmol), potassium carbonate (7.34 g, 53.09 mmol) and 4-methanesulfonylbenzeneboronic acid (5.31 g, 26.55 mmol) in N,N-dimethylacetamide (90 mL) and purge for 15 min. Add water (35 mL) and the mixture further purged for 15 min. Add tetrakis(triphenylphosphine)palladium(0) (0.130 g, 0.11 mmol) and heat for 2 hr. 10 min. at 110° C. Allow to cool to 65° C., add water (30 mL) and t-butyl methyl ether (70 mL) and stir for 0.5 hr. Filter off the solid and dry in a vacuum oven to give 3′-(4-methanesulfonylphenyl)-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-carboxylic acid t-butyl ester (8.3 g, 86%). MS (ES): m/z=419 [M+H]+.

reactant | 3′-chloro-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-carboxylic acid t-butyl ester | 30.75 mmol, 6.92 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=CN=C1Cl | C13H19ClN4O2
reactant | potassium carbonate | 53.09 mmol, 7.34 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-methanesulfonylbenzeneboronic acid | 26.55 mmol, 5.31 g | CS(=O)(=O)C1=CC=C(C=C1)B(O)O | C7H9BO4S
reactant | water | 30 mL | O | H2O
solvent | N,N-dimethylacetamide | 90 mL | CN(C(C)=O)C | C4H9NO
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.11 mmol, 0.130 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | t-butyl methyl ether | 70 mL | COC(C)(C)C | C5H12O
product | 3′-(4-methanesulfonylphenyl)-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-carboxylic acid t-butyl ester | 8.3 g, 86% | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=CN=C1C1=CC=C(C=C1)S(=O)(=O)C | C20H26N4O4S
